* C:\Lab\Christmas-2024\sim\rev-pol.asc
M1 N001 0 N002 N002 AO6407
V1 N001 0 PULSE(0 5 5m 0.01m 0.01m 5m 10m)
R1 N002 0 1k
R2 N003 0 1k
D1 N003 N001 D
.model D D
.lib C:\Users\marka\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\marka\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m
.backanno
.end
